US05362906
Step 1: (E,E)-3,7,11-Trimethyl-2,6,10-dodecatrienylazide
A mixture of (E,E)-3,7,11-trimethyl-2,6,10-dodecatrienyl bromide (1.5 g, 5.26 mmol) and sodium azide (0.68 g, 10.5 mmol) in DMF (20 mL) was stirred at room temperature for 0.5 hours, then poured into cold water and extracted with ether. The ethereal extract was washed with brine, dried, filtered and evaporated to yield a residue. Purification of the residue by flash chromatography on a silica gel column, using hexane as the eluant, afforded the title compound as an oil (1.2 g, 4.85 mmol, 92%).

reactant | (E,E)-3,7,11-trimethyl-2,6,10-dodecatrienyl bromide | 5.26 mmol, 1.5 g | C\C(=C/CBr)\CC\C=C(\CCC=C(C)C)/C | C15H25Br
reactant | sodium azide | 10.5 mmol, 0.68 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (E,E)-3,7,11-Trimethyl-2,6,10-dodecatrienylazide | 4.85 mmol, 1.2 g, 92% | C\C(=C/CN=[N+]=[N-])\CC\C=C(\CCC=C(C)C)/C | C15H25N3
